US09233956B2
Step B: 2-Propen-1-yl {2-chloro-3-[(E)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}carbamate
Following a procedure analogous to the procedure described in Intermediate 5, Step B using methyl 2-chloro-3-{[(2-propen-1-yloxy)carbonyl]amino}benzoate (30 g, 0.11 mol) and 2-chloro-4-methylpyrimidine (15.8 g, 0.12 mol) the title compound of Step B was prepared (29 g, 79.6% yield). 1H NMR (400 MHz, CDCl3) δ ppm 13.52-13.58 (br, 0.9H), 8.41-8.42 (m, 1H), 8.22-8.27 (m, 1H), 7.28-7.35 (m, 2.2H), 7.21-7.24 (m, 1.2H), 6.85-6.88 (m, 1H), 5.91-6.02 (m, 1H), 5.73 (s, 1H), 5.23-5.40 (m, 2H), 4.66-4.70 (m, 2H).

reactant | methyl 2-chloro-3-{[(2-propen-1-yloxy)carbonyl]amino}benzoate | 0.11 mol, 30 g | ClC1=C(C(=O)OC)C=CC=C1NC(=O)OCC=C | C12H12ClNO4
reactant | 2-chloro-4-methylpyrimidine | 0.12 mol, 15.8 g | ClC1=NC=CC(=N1)C | C5H5ClN2
product | 2-Propen-1-yl {2-chloro-3-[(E)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}carbamate | 79.6% yield | ClC1=C(C=CC=C1/C(=C\C1=NC(=NC=C1)Cl)/O)NC(OCC=C)=O | C16H13Cl2N3O3
